US08912169B2
Step 2: [4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetic acid
To a solution of [4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetic acid ethyl ester (0.304 g, 0.848 mmol) in MeOH (5.0 mL) and THF (1.5 mL) was added sodium hydroxide (4.2 mL, 1N, 4.2 mmol) and the reaction stirred at RT for 5 hr. The reaction was acidified to pH ˜2 with 1N HCl and extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4, filtered, and concentrated to provide 0.308 g of crude product that was carried to the next step without purification. ESI-MS m/z 331 (MH)+.

reactant | [4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetic acid ethyl ester | 0.848 mmol, 0.304 g | C(C)OC(CC1(CCC(CC1)CNC(=O)OC(C)(C)C)C[N+](=O)[O-])=O | C17H30N2O6
reactant | sodium hydroxide | 4.2 mmol, 1N, 4.2 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 5.0 mL | CO | CH4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | [4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetic acid | 0.308 g | C(C)(C)(C)OC(=O)NCC1CCC(CC1)(C[N+](=O)[O-])CC(=O)O | C15H26N2O6
